US04073902
A suspension of 1.65 g of 7β-amino-3-methoxy-3-cephem-4-carboxylic acid diphenylmethyl ester and 2 ml of anisole is mixed with 20 ml of pre-cooled trifluoroacetic acid and stirred for 15 minutes in an ice bath. It is diluted with 100 ml of cold toluene and the reaction mixture is evaporated under reduced pressure. The dark brown residue is dried under a high vacuum and stirred with diethyl ether; the precipitate is filtered off, washed with acetone and diethyl ether and dried. The salt, thus obtainable, of 7β-amino-3-methoxy-3-cephem-4-carboxylic acid and of trifluoroacetic acid is dissolved in 10 ml of water; the aqueous solution is twice washed with 10 ml of ethyl acetate at a time and brought to a pH of 4.5 by adding a 10% strength solution of triethylamine in methanol. The mixture is diluted with 10 ml of acetone and stirred for one hour at 0° C. The precipitate is filtered off, washed with a 1:2 mixture of acetone and diethyl ether and dried in a high vacuum and yields 7β-amino-3-methoxy-3-cephem-4-carboxylic acid in the form of the internal salt, thin layer chromatogram (silica gel): Rf~0.16 (system: n-butanol/acetic acid/water, 67:10:23); ultraviolet absorption spectrum (in 0.1 N hydrochloric acid): λmax = 261 mμ (ε= 5,400).

reactant | 7β-amino-3-methoxy-3-cephem-4-carboxylic acid diphenylmethyl ester | 1.65 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)OC | C21H20N2O4S
reactant | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 7β-amino-3-methoxy-3-cephem-4-carboxylic acid | N[C@H]1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O | C8H10N2O4S
